US04808729
Diethyl-4-(mercaptomethyl)-1,3-dithiolane-2,2-dipropanoate
A stirred solution of 1,2,3-trimercaptopropane (10.0 g, 0.071 mol) and diethyl 4-oxopimelate (16.43 g, 0.071 mol) in methylene chloride (300 ml) under nitrogen atmosphere was treated with boron trifluoride etherate (2 ml). After stirring for 3 days at room temperature, the reaction was quenched by addition of 200 ml of 5% sodium bicarbonate solution. The organic phase was separated and dried over anhydrous sodium sulfate. The drying agent was filtered and the filtrate concentrated on the rotary evaporator. The residue was chromatographed on silica gel using 5% ethyl acetate/hexane to give 10 g (40%) of the title compound as an oil.

reactant | 1,2,3-trimercaptopropane | 0.071 mol, 10.0 g | SCC(CS)S | C3H8S3
reactant | diethyl 4-oxopimelate | 0.071 mol, 16.43 g | O=C(CCC(=O)OCC)CCC(=O)OCC | C11H18O5
reactant | boron trifluoride etherate | 2 ml | B(F)(F)F.CCOCC
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | Diethyl-4-(mercaptomethyl)-1,3-dithiolane-2,2-dipropanoate | 10 g, 40% | C(C)OC(CCC1(SCC(S1)CS)CCC(=O)OCC)=O | C14H24O4S3
